US06093732
N-((4-Chlorophenyl)methyl)-4-hydroxy-6,7-dimethoxy-3-quinolinecarboxamide
A mixture of 6,7-dimethoxy-4-hydroxy-3-quinoline carboxylate ethyl ester (J. Am. Chem. Soc., 68, 1264 (1946)) (139 mg) and 4-chlorobenzylamine (0.61 mL) are heated at 190° C. for 1 h. The resulting mixture is diluted with toluene (1.5 mL) and allowed to cool to rt. The crude product is purified by column chromatography (dichloromethane/methanol; 100/1, 100/5) and recrystallization (acetic acid, water) to afford 26 mg of the title compound as a white solid.

reactant | 6,7-dimethoxy-4-hydroxy-3-quinoline carboxylate ethyl ester | 139 mg | C(C)OC(=O)C=1C=NC2=CC(=C(C=C2C1O)OC)OC | C14H15NO5
reactant | 4-chlorobenzylamine | 0.61 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
product | N-((4-Chlorophenyl)methyl)-4-hydroxy-6,7-dimethoxy-3-quinolinecarboxamide | 26 mg | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=CC(=C(C=C2C1O)OC)OC | C19H17ClN2O4
